US08541576B2
Preparation of ethyl 1-(2-hydroxyethyl)-8-methoxy-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate (St. 3b)
To a solution of ethyl (6E)-6-[(dimethylamino)methylidene]-1-(2-hydroxyethyl)-7-oxo-4,5,6,7-tetrahydro-1H-indazole-3-carboxylate 15 g (49 mmol) in 50 ml of anhydrous DMF, 14.4 g (147 mmol) of anhydrous potassium acetate and 12.60 g (73.0 mmol) of methylisourea sulfate were added. The reaction was stirred at 100° C. for 16 hours. The mixture was diluted with ethyl acetate, washed with H2O, dried over Na2SO4, filtered and evaporated. The crude was purified by column (ethyl acetate:hexane 1:3) to give the title compound 1.2 g (10%). HRMS (ESI) calcd for C15H18N4O4 [M+H]+ 319.3278 found 319.3256.

reactant | ethyl (6E)-6-[(dimethylamino)methylidene]-1-(2-hydroxyethyl)-7-oxo-4,5,6,7-tetrahydro-1H-indazole-3-carboxylate | 49 mmol, 15 g | CN(C)\C=C\1/CCC=2C(=NN(C2C1=O)CCO)C(=O)OCC | C15H21N3O4
reactant | potassium acetate | 147 mmol, 14.4 g | C(C)(=O)[O-].[K+]
reactant | methylisourea sulfate | 73.0 mmol, 12.60 g | S(=O)(=O)(O)O.CNC(O)=N
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 1-(2-hydroxyethyl)-8-methoxy-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate | 1.2 g, 10% | OCCN1N=C(C=2CCC=3C=NC(=NC3C21)OC)C(=O)OCC | C15H18N4O4
